US04963580
Preparation of 5-Allyloxy-2,3-dihydrobenzothiophene
To a solution of 5-hydroxy-2,3-dihydrobenzothiophene (1.53 g, 10.05 mmoles) in 200 mL acetone was added K2CO3 (12.5 g, 90.45 mmoles) with good mechanical stirring. The suspension was warmed and allyl bromide (4.86 g, 40.20 mmoles) was added in one portion. The reaction mixture was then heated to reflux overnight. After cooling, the solids were removed by filtration and the filtrate concentrated. The residue was taken up in 50/50 vol/vol hexane/methylene chloride and refiltered to remove the remaining salts. Concentration afforded 3.2 q crude product (a yellow oil) which was purified by flash chromatography (3% EtOAc in hexane to elute) to give 1.61 g pure product (83.4%) as an oil.

reactant | 5-hydroxy-2,3-dihydrobenzothiophene | 10.05 mmoles, 1.53 g | OC=1C=CC2=C(CCS2)C1 | C8H8OS
reactant | K2CO3 | 90.45 mmoles, 12.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | allyl bromide | 40.20 mmoles, 4.86 g | C(C=C)Br | C3H5Br
solvent | acetone | 200 mL | CC(=O)C | C3H6O
product | 5-Allyloxy-2,3-dihydrobenzothiophene | 1.61 g, 83.4% | C(C=C)OC=1C=CC2=C(CCS2)C1 | C11H12OS
